US07662825B2
N-(5-Bromo-3methoxy-2-pyrazinyl)benzenesulphonamide
Prepared by method of Example 1 (reaction performed at room temperature) using 5-bromo-3-methoxy-2-pyrazinamine and benzenesulphonyl chloride

reactant | 5-bromo-3-methoxy-2-pyrazinamine | BrC=1N=C(C(=NC1)N)OC | C5H6BrN3O
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(5-Bromo-3methoxy-2-pyrazinyl)benzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=CC=CC=C1)OC | C11H10BrN3O3S
